US04929741
A solution of 53 g (155 mmol) of 4-methoxybenzyl 4-hydroxy-4-(3,4-methylenedioxyphenyl)-2-butynoate in 400 ml of methylene chloride was added dropwise at 0° to a suspension of 338 g (3.9 mol) of manganese dioxide in 800 ml of methylene chloride The reaction mixture was stirred at 0° for 1 hour, treated with 4 spatula tips of sodium sulphate, suction filtered over Dicalit and concentrated. Crystallization of the residue from ether yielded 4-methoxybenzyl 3-[3,4-(methylenedioxy)benzoyl]propiolate of melting point 113°-114°.

reactant | 4-methoxybenzyl 4-hydroxy-4-(3,4-methylenedioxyphenyl)-2-butynoate | 155 mmol, 53 g | OC(C#CC(=O)OCC1=CC=C(C=C1)OC)C1=CC2=C(C=C1)OCO2 | C19H16O6
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 3.9 mol, 338 g | [O-2].[O-2].[Mn+4]
product | 4-methoxybenzyl 3-[3,4-(methylenedioxy)benzoyl]propiolate | C1OC=2C=C(C(=O)C#CC(=O)OCC3=CC=C(C=C3)OC)C=CC2O1 | C19H14O6
